US05136080
a. Preparation of 2-(2,4-dichlorophenyl)-3-oxo-butyronitrile
A solution of 2,4-dichlorophenylacetonitrile (30.00 gms, 161 mmol) (Aldrich) in dry ethyl acetate (36 ml) was added dropwise to an ethanolic solution of sodium ethoxide, prepared in situ from sodium metal (4.90 g, 213 mmol) and dry ethanol (60 ml). This reaction mixture was refluxed for two hours, allowed to stand overnight at room temperature and the ethanol was evaporated. The yellow solid obtained was dissolved in water and the resulting solution was extracted twice with ether. The aqueous layer was chilled and acidified with hydrochloric acid. The crude product was extracted with ether to give 23.31 g of white solid.

reactant | 2,4-dichlorophenylacetonitrile | 161 mmol, 30.00 gms | ClC1=C(C=CC(=C1)Cl)CC#N | C8H5Cl2N
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 213 mmol, 4.90 g | [Na] | Na
reactant | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethyl acetate | 36 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(2,4-dichlorophenyl)-3-oxo-butyronitrile | 23.31 g | ClC1=C(C=CC(=C1)Cl)C(C#N)C(C)=O | C10H7Cl2NO
